US06008230
A mixture of 8-amino-4-hydroxyquinoline (300 mg), 2,6-dichlorobenzoyl chloride (432 mg), triethylamine (569 mg) and catalytic amount of dimethylaminopyridine in dimethylacetamide (3 ml) was stirred for 1 hour under ice-cooling. To the mixture was added water (3 ml) and the resulting precipitate was collected by filtration. The residue was suspended in hot ethanol (10 ml) with stirring. The resulting precipitate was collected by filtration, and the residue was purified by flash chromatography (ethyl acetate-dichloromethane) to give 8-amino-4-(2,6-dichlorobenzoyloxy)quinoline (240 mg).

reactant | 8-amino-4-hydroxyquinoline | 300 mg | NC=1C=CC=C2C(=CC=NC12)O | C9H8N2O
reactant | 2,6-dichlorobenzoyl chloride | 432 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | triethylamine | 569 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 3 ml | O | H2O
product | 8-amino-4-(2,6-dichlorobenzoyloxy)quinoline | 240 mg | NC=1C=CC=C2C(=CC=NC12)OC(C1=C(C=CC=C1Cl)Cl)=O | C16H10Cl2N2O2
